US07217724B2
(1R)-1-Methyl-2-(7-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)ethylamine
To a solution of tert-butyl (1R)-1-methyl-2-(7-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)ethylcarbamate (1.03 g, 2.39 mmol) in acetonitrile (10 mL) is added oxalic acid (860 mg, 9.55 mmol), and the mixture is refluxed for 5 hours. The reaction solution is evaporated under reduced pressure to remove the solvent, and to the residue are added a 10% aqueous potassium carbonate solution and a mixture of chloroform:methanol (10:1) for separation. The organic layer is dried over anhydrous potassium carbonate, and the solvent is removed by distillation to give the title compound (626 mg, yield: 79%).

reactant | tert-butyl (1R)-1-methyl-2-(7-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)ethylcarbamate | 2.39 mmol, 1.03 g | C[C@H](CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)NC(OC(C)(C)C)=O | C23H33N3O5
reactant | oxalic acid | 9.55 mmol, 860 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (1R)-1-Methyl-2-(7-{[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]oxy}-1H-indol-3-yl)ethylamine | 626 mg, yield: 79% | C[C@H](CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)N | C18H25N3O3
